US04458075
1-[3-(6-Fluoro-1,2-benzisoxazol-3-yl)propyl]-2,3,4,5,6,7-hexahydroazepine oxalate
To 40 ml of dry dimethylformamide, was added 4.2 g of 3-(3-chloropropyl)-6-fluoro-1,2-benzisoxazole, 2.3 ml of hexamethyleneimine, 8.0 g of sodium bicarbonate, and a crystal of potassium iodide. After stirring at 80° C. for three hrs, the mixture was filtered and the filtrate was evaporated to an oil. The oil was stirred with 100 ml of water for five mins and then extracted with ether. The ether extract was washed with water (2×), saturated sodium chloride solution, and dried over anhydrous magnesium sulfates. After filtering, the solvent was evaporated to an oil. The oil was treated with ethereal hydrogen chloride, and the resultant salt was recrystallized twice from ethylacetate/methanol/ether to give 2.4 g (33%) of product, mp 141°-142° C. (dec).

reactant | 3-(3-chloropropyl)-6-fluoro-1,2-benzisoxazole | 4.2 g | ClCCCC1=NOC2=C1C=CC(=C2)F | C10H9ClFNO
reactant | sodium bicarbonate | 8.0 g | C([O-])(O)=O.[Na+]
reactant | potassium iodide | [I-].[K+]
reactant | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 1-[3-(6-Fluoro-1,2-benzisoxazol-3-yl)propyl]-2,3,4,5,6,7-hexahydroazepine oxalate | 2.4 g, 33% | C(C(=O)O)(=O)O.FC1=CC2=C(C(=NO2)CCCN2CCCCCC2)C=C1 | InChI=1S/C16H21FN2O.C2H2O4/c17-13-7-8-14-15(18-20-16(14)12-13)6-5-11-19-9-3-1-2-4-10-19;3-1(4)2(5)6/h7-8,12H,1-6,9-11H2;(H,3,4)(H,5,6)
